US09314023B2
At 0° C., to a mixture of 3-amino-2-chlorophenol 100 g and concentrated hydrochloric acid 250 ml was added slowly aqueous solution 300 ml containing sodium nitrite 67.0 g and followed by addition of water 400 ml. The resulting mixture was stirred for two hours and thereto was added slowly anhydrous tin(II) chloride 292 g and concentrated hydrochloric acid 250 ml and the resulting mixture was stirred for one hour. At room temperature, the resulting mixture was stirred for additional twelve hours, and then the reaction mixture was filtered and was washed with aqueous 10% hydrochloric acid and hexane to give 2-chloro-4-hydrazinophenol hydrochloride salt 105 g.

reactant | 3-amino-2-chlorophenol | 100 g | NC=1C(=C(C=CC1)O)Cl | C6H6ClNO
reactant | hydrochloric acid | 250 ml | Cl | ClH
reactant | sodium nitrite | 67.0 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride | 292 g | [Sn](Cl)Cl
reactant | hydrochloric acid | 250 ml | Cl | ClH
reactant | water | 400 ml | O | H2O
product | 2-chloro-4-hydrazinophenol hydrochloride salt | 105 g | Cl.ClC1=C(C=CC(=C1)NN)O | InChI=1S/C6H7ClN2O.ClH/c7-5-3-4(9-8)1-2-6(5)10;/h1-3,9-10H,8H2;1H
